US05703092
(d) Methyl 2(R)-(N-butyloxycarbonylamino)-4-(p-toluenesulfonylamino)butyrate
To a solution of methyl 4-amino-2(R)-(N-butyloxycarbonylamino)butyrate hydrochloride (2.28 g, 8.5 mmol) and p-toluenesulfonyl chloride (1.62 g, 8.5 mmol) in 10 mL CHCl3 cooled in an ice bath was added diisopropylethylamine (4.5 mL, 26 mmol). The mixture was stirred at room temperature overnight and concentrated. Ethyl acetate was added and the solution was washed with citric acid, brine, NaHCO3 and brine, dried (MgSO4) and concentrated. Purification on a silica gel column using 40% ethyl acetate/hexane gave 2.16 g (66%) product. 1H-NMR: d (CDCl3) 7.75 (d, 2H ); 7.26 (d, 2H); 5.72 (t, 1H); 5.22 (d, 1H); 4.32 (m, 1H); 3.72 (s, 3H); 3.18 (m, 1H); 2.82 (m, 1H); 2.41 (s, 3H); 2.10 (m, 1H); 1.60 (m, 1H); 1.40 (s, 9H).

reactant | methyl 4-amino-2(R)-(N-butyloxycarbonylamino)butyrate hydrochloride | 8.5 mmol, 2.28 g | Cl.NCC[C@H](C(=O)OC)NC(=O)OCCCC
reactant | p-toluenesulfonyl chloride | 8.5 mmol, 1.62 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | diisopropylethylamine | 26 mmol, 4.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | Methyl 2(R)-(N-butyloxycarbonylamino)-4-(p-toluenesulfonylamino)butyrate | 2.16 g, 66% | C(CCC)OC(=O)N[C@@H](C(=O)OC)CCNS(=O)(=O)C1=CC=C(C=C1)C | C17H26N2O6S
